US04304781
1-Benzyl-2-(benzylthio)pyridinium bromide
A mixture of 2-(benzylthio)pyridine (2.01 g) and benzyl bromide (1.71 g) was kept at ambient temperature for 4 days. Trituration at length with ether gave a solid which was removed by filtration and dried to give the title compound (2.2 g) mp 125°-127° C. (Found: C, 61.6; H, 5.2; N, 3.6%. C19H18BrNS requires C, 61.3; H, 4.9; N, 3.8%).

reactant | 2-(benzylthio)pyridine | 2.01 g | C(C1=CC=CC=C1)SC1=NC=CC=C1 | C12H11NS
reactant | benzyl bromide | 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ether | CCOCC | C4H10O
product | 1-Benzyl-2-(benzylthio)pyridinium bromide | 2.2 g | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC=C1)SCC1=CC=CC=C1 | InChI=1S/C19H18NS.BrH/c1-3-9-17(10-4-1)15-20-14-8-7-13-19(20)21-16-18-11-5-2-6-12-18;/h1-14H,15-16H2;1H/q+1;/p-1
